US06297375B1
d) 2,2-Dimethyl-N-(6-morpholin-4-yl-4-o-tolyl-pyridin-3-yl)-propionamide
A mixture of 3.50 g (9.0 mmol) N-(4-iodo-6-morpholin-4-yl-pyridin-3-yl)-2,2-dimethyl-propionamide, 35 ml toluene, 18 ml 2 N sodium carbonate solution, 312 mg (0.27 mmol) tetrakis(triphenylphosphine)palladium(0) and 1.34 g (9.9 mmol) o-tolylboronic acid was heated under argon at 80° C. for 12 h. After cooling to room temperature, the aqueous phase was separated and washed twice with ethyl acetate. The combined organic layers were washed with 50 ml brine, dried (sodium sulfate) and evaporated. Purification by flash-chromatography gave 3.23 g (quantitative) of the title compound as a white foam.

reactant | N-(4-iodo-6-morpholin-4-yl-pyridin-3-yl)-2,2-dimethyl-propionamide | 9.0 mmol, 3.50 g | IC1=C(C=NC(=C1)N1CCOCC1)NC(C(C)(C)C)=O | C14H20IN3O2
reactant | sodium carbonate | 2 N, 18 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | o-tolylboronic acid | 9.9 mmol, 1.34 g | C1(=C(C=CC=C1)B(O)O)C | C7H9BO2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.27 mmol, 312 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
product | 2,2-Dimethyl-N-(6-morpholin-4-yl-4-o-tolyl-pyridin-3-yl)-propionamide | CC(C(=O)NC=1C=NC(=CC1C1=C(C=CC=C1)C)N1CCOCC1)(C)C | C21H27N3O2
